US07563907B2
1-(5-carboxy-pentyl)-4-[(E)-2-(7-diethylamino-2-oxo-2H-chromen-3-yl)-vinyl]-3-sulfonato-pyridinium betaine
0.2 mmol 7-diethylamino-2-oxo-2H-chromene-3-carbaldehyde and 0.2 mmol 1-(5-carboxy-pentyl)-3-sulfonato-4-methyl-pyridinium betaine are converted according to the general directions above. Column chromatography: SiO2 (RP18), eluent: methanol/water.

reactant | 7-diethylamino-2-oxo-2H-chromene-3-carbaldehyde | 0.2 mmol | C(C)N(C1=CC=C2C=C(C(OC2=C1)=O)C=O)CC | C14H15NO3
reactant | 1-(5-carboxy-pentyl)-3-sulfonato-4-methyl-pyridinium betaine | 0.2 mmol | C(=O)(O)CCCCC[N+]1=CC(=C(C=C1)C)S(=O)(=O)[O-].C[N+](C)(C)CC(=O)O
solvent | methanol water | CO.O
product | 1-(5-carboxy-pentyl)-4-[(E)-2-(7-diethylamino-2-oxo-2H-chromen-3-yl)-vinyl]-3-sulfonato-pyridinium betaine | C(=O)(O)CCCCC[N+]1=CC(=C(C=C1)\C=C\C=1C(OC2=CC(=CC=C2C1)N(CC)CC)=O)S(=O)(=O)[O-].C[N+](C)(C)CC(=O)O | InChI=1S/C26H30N2O7S.C5H11NO2/c1-3-28(4-2)22-12-11-20-16-21(26(31)35-23(20)17-22)10-9-19-13-15-27(18-24(19)36(32,33)34)14-7-5-6-8-25(29)30;1-6(2,3)4-5(7)8/h9-13,15-18H,3-8,14H2,1-2H3,(H-,29,30,32,33,34);4H2,1-3H3/p+1
